US07855287B2
Synthesis of sodium 3-(phenothiazin-10-yl)propane-1-sulfonate
A portion of sodium hydride (17.7 g, 0.44 moles) dispersed in mineral oil is first washed with petroleum ether (b.p. 40-60° C.) and then suspended in 200 mL dry tetrahydrofuran, in a 2 L three-neck flask. A solution of phenothiazine (80.0 g, 0.4 moles) dissolved in tetrahydrofuran (400 mL) is added under argon through a cannula. The mixture is shaken, always under argon, for one hour at room temperature and then for 30 minutes at 50° C. The mixture acquires an orange colour, following the formation of the phenothiazine anion. After the suspension has cooled to 0° C., a solution of 1,3-propanesultone (35 mL, 0.4 moles) in tetrahydrofuran is added also through a cannula. The colour of the mixture changes almost immediately to clear yellow. The mixture is stirred at 0° C. for thirty minutes after the addition of the sultone and then at room temperature for another thirty minutes.

reactant | sodium hydride | 0.44 moles, 17.7 g | [H-].[Na+]
reactant | phenothiazine | 0.4 moles, 80.0 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | 1,3-propanesultone | 0.4 moles, 35 mL | C1COS(=O)(=O)C1 | C3H6O3S
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | sodium 3-(phenothiazin-10-yl)propane-1-sulfonate | C1=CC=CC=2SC3=CC=CC=C3N(C12)CCCS(=O)(=O)[O-].[Na+] | InChI=1S/C15H15NO3S2.Na/c17-21(18,19)11-5-10-16-12-6-1-3-8-14(12)20-15-9-4-2-7-13(15)16;/h1-4,6-9H,5,10-11H2,(H,17,18,19);/q;+1/p-1
